### PR TITLE
feat: support material for finite type theory

### PR DESCRIPTION
**Pull request by TwoFX**
This PR contains additional material on `BitVec`, `Int` and `Nat`, split off from #7592.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -613,6 +613,12 @@ theorem neg_sle_zero (h : 0 < w) (x : BitVec w) :
   rw [sle_eq_slt_or_eq, neg_slt_zero h, sle_eq_slt_or_eq]
   simp [Bool.beq_eq_decide_eq (-x), Bool.beq_eq_decide_eq _ x, Eq.comm (a := x), Bool.or_assoc]
 
+theorem sle_eq_ule (x y : BitVec w) : x.sle y = (x.msb != y.msb ^^ x.ule y) := by
+  rw [sle_eq_not_slt, slt_eq_ult, ← Bool.xor_not, ← ule_eq_not_ult, bne_comm]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:617]:
```suggestion
theorem sle_eq_ule {x y : BitVec w} : x.sle y = (x.msb != y.msb ^^ x.ule y) := by
  rw [sle_eq_not_slt, slt_eq_ult, ← Bool.xor_not, ← ule_eq_not_ult, bne_comm]
```

**Review by tobiasgrosser — APPROVED** [review]
Very cool. Thank you.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (TwoFX) [reply src/Init/Data/BitVec/Bitblast.lean:617]: That would be inconsistent with `slt_eq_ult`, which was added 10 months ago. Would you like me to change both?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:617]: You are an expert on the lean std API. Can you let me know which rules you follow, then we can apply those throughout. @kim-em suggested to use implicit arguments for such theorems, but I am happy to update the guidelines.

We are not super consistent, but I would be happy to review the full BitVec files to make sure we are consistent. As we now polish the API, this is probably the best moment to do this.

Comment (TwoFX) [reply src/Init/Data/BitVec/Bitblast.lean:617]: Unfortunately we haven't been able to finalize an official policy for implicitness of arguments yet, but this is in the works. I'll go with implicits here for now.

**Comment by TwoFX** [comment]
Thanks for the review!
